US07732435B2
N-[3-(4-Chlorophenyl)-8-hydroxy-2-isopropyl-4-oxo-4H-chromen-7-yl]formamide
A stirred mixture of 7-amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one (1.1 g, 3.35 mmol) and sodium formate (0.23 g, 3.35 mmol) in formic acid (50 ml) is heated under reflux for 2 h. After cooling to room temperature, the reaction mixture is poured into ice/water (300 ml) with stirring. The resulting aqueous suspension is washed with ethyl acetate (2×100 ml). The combined organic layers are washed with water (3×100 ml) and brine (100 ml), dried (magnesium sulfate) and filtered. The solvent is removed by evaporation in vacuo to afford a dark brown oil. This is purified by flash chromatography (hexane/ethyl acetate=1:1, followed by 100% ethyl acetate) to afford the title compound.

reactant | 7-amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | 3.35 mmol, 1.1 g | NC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H16ClNO3
reactant | sodium formate | 3.35 mmol, 0.23 g | C(=O)[O-].[Na+]
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | N-[3-(4-Chlorophenyl)-8-hydroxy-2-isopropyl-4-oxo-4H-chromen-7-yl]formamide | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)NC=O)O)C(C)C | C19H16ClNO4
